US08227431B2
Preparation of ((2R,3S,4R)-3-acetoxy-5-(6-chloro-9H-purin-9-yl)-4-fluoro-3,4-dimethyl-tetrahydrofuran-2-yl)methyl benzoate
To a stirred solution of 6-chloropurine (about 0.87 g, 5.7 mmol) in acetonitrile (about 20 ml) was added 1,8-Diazabicyclo[5.4.0]undec-7-ene (about 1.7 ml, 11.4 mmol) and Trimethylsilyl trifluoromethanesulfonate (about 2.76 ml, 15.2 mmol) at about 0° C., stirred for about 15 minutes then ((2R,3S,4R)-3,5-diacetoxy-4-fluoro-3,4-dimethyl-tetrahydrofuran-2-yl)methyl benzoate (about 1.4 g, 3.8 mmol) dissolved in Acetonitrile (about 20 ml) was added and reaction continued stirring at about 65° C. for about 8 hours. Completion of reaction monitored by thin-layer chromatography and quenched with saturated sodium bicarbonate. Aqueous layer was extracted with ethyl acetate and the combined organic layers were washed with saturated sodium bicarbonate solution, brine and dried over sodium sulphate. Concentration under reduced pressure and purification by silica gel column chromatography using 20% ethyl acetate: hexane as eluent furnished title compounds Isomer A and B (0.7 g) as a colorless liquid. Yield: 57%;

reactant | 6-chloropurine | 5.7 mmol, about 0.87 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 11.4 mmol, about 1.7 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | Trimethylsilyl trifluoromethanesulfonate | 15.2 mmol, about 2.76 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | ((2R,3S,4R)-3,5-diacetoxy-4-fluoro-3,4-dimethyl-tetrahydrofuran-2-yl)methyl benzoate | 3.8 mmol, about 1.4 g | C(C1=CC=CC=C1)(=O)OC[C@H]1OC([C@]([C@@]1(C)OC(C)=O)(C)F)OC(C)=O | C18H21FO7
solvent | acetonitrile | about 20 ml | C(C)#N | C2H3N
solvent | Acetonitrile | about 20 ml | C(C)#N | C2H3N
product | ((2R,3S,4R)-3-acetoxy-5-(6-chloro-9H-purin-9-yl)-4-fluoro-3,4-dimethyl-tetrahydrofuran-2-yl)methyl benzoate | Yield: 57% | C(C1=CC=CC=C1)(=O)OC[C@H]1OC([C@]([C@@]1(C)OC(C)=O)(C)F)N1C2=NC=NC(=C2N=C1)Cl | C21H20ClFN4O5
